US09447046B2
Preparation 95a: 4-(3,5-dimethoxyphenyl)but-3-enoic acid
To a solution of (2-carboxyethyl)triphenylphosphonium bromide (13.7 g, 33 mmol) in dry THF (50 mL) was added NaHMDS (33 mL, 66 mmol) dropwise at −20° C. under N2 and the reaction stirred for 20 min. The reaction was cooled to −78° C. and 3,5-dimethoxybenzaldehyde (5.0 g, 30 mmol) was added, and the reaction mixture stirred overnight while warming to rt. The reaction was quenched with water and extracted with EtOAc. The aqueous layer was acidified to pH=2 with dilute HCl solution and extracted with EtOAc again. The combined organic layers were washed with brine, dried (Na2SO4) and concentrated to give 2.54 g (38%) of the title compound as an orange gum. [M+H] Calc'd for C12H14O4, 223. Found, 223.

reactant | (2-carboxyethyl)triphenylphosphonium bromide | 33 mmol, 13.7 g | [Br-].C(=O)(O)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | NaHMDS | 66 mmol, 33 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 3,5-dimethoxybenzaldehyde | 30 mmol, 5.0 g | COC=1C=C(C=O)C=C(C1)OC | C9H10O3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-(3,5-dimethoxyphenyl)but-3-enoic acid | 2.54 g, 38% | COC=1C=C(C=C(C1)OC)C=CCC(=O)O | C12H14O4
